US06982274B2
3-(4-Fluorophenyl)-1H-5-indazolecarboxylic acid
To 1.0 g of 3-(4-fluorophenyl)-1H-5-indazolecarbonitrile were added 5 ml of water, 4 ml of concentrated sulfuric acid and 4 ml of glacial acetic acid, and the mixture was heated under reflux for 3 hours. After standing to cool, 25 ml of ice-cooled water was added. The resulting crystals were collected by filtration. The collected crystals were dissolved in 250 ml of ethyl acetate, sequentially washed with water and brine, and dried over anhydrous magnesium sulfate. After filtrating the organic layer through a silica gel pat, the solvent was evaporated, to give 968 mg of the title compound as bright yellow crystals.

reactant | 3-(4-fluorophenyl)-1H-5-indazolecarbonitrile | 1.0 g | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C#N | C14H8FN3
reactant | sulfuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | water | 5 ml | O | H2O
product | 3-(4-Fluorophenyl)-1H-5-indazolecarboxylic acid | 968 mg | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C(=O)O | C14H9FN2O2
